US04684398
A solution of 5.5 g of N-cyano-N'-(1,2,3,4-tetrahydro-7-methoxy-1-naphthyl)-S-methylisothiourea and 10 ml of 70 percent aqueous ethylamine in 100 ml of ethanol was heated at reflux for 37 hours. The solvent was removed by evaporation in vacuo, and the residue was chromatographed on silica gel, using ethyl acetate as eluent. The ethyl acetate was removed from the eluate by evaporation in vacuo, and the residue was crystallized from toluene to give N"-cyano-N-ethyl-N'-(1,2,3,4-tetrahydro-7-methoxy-1-naphthyl)guanidine as 2.7 g of white, crystalline solid, mp 130°-131°.

reactant | N-cyano-N'-(1,2,3,4-tetrahydro-7-methoxy-1-naphthyl)-S-methylisothiourea | 5.5 g | C(#N)NC(SC)=NC1CCCC2=CC=C(C=C12)OC | C14H17N3OS
reactant | ethylamine | 10 ml | C(C)N | C2H7N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N"-cyano-N-ethyl-N'-(1,2,3,4-tetrahydro-7-methoxy-1-naphthyl)guanidine | C(#N)N=C(NCC)NC1CCCC2=CC=C(C=C12)OC | C15H20N4O
